US09233985B2
preparation of (3R,4S)-3-amino-4-(3-boronopropyl)-1-((6-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)pyrrolidine-3-carboxylic acid
(3R,4S)-3-amino-4-(3-boronopropyl)-1-((6-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)pyrrolidine-3-carboxylic acid trihydrochloride (mixture of two diastereomers, each a racemate) is prepared in a manner analogous to that set forth in Example 49, except 3-chlorophenylalanine is used in place of 4-chlorophenylalanine in Step 1. 1H NMR (0.1M DCl in D2O, 400 MHz) δ 7.23 (m, 2 H), 7.09 (m, 1 H), 4.37 (s, 2 H), 4.00 (m, 3 H), 3.82 (m, 2 H), 3.69 (m, 1 H), 3.43 (m, 1 H), 3.22 (m, 1 H), 3.00 (m, 1 H), 2.68 (m, 1 H), 1.60 (m, 1 H), 1.26 (m, 3 H), 0.66 (m, 2 H). ESI+ MS found for C18H27BClN3O4 m/z 378.1 (M−18+H), 360.0 (M−36+H); ESE MS m/z 376.1 (M−18−H).

reactant | (3R,4S)-3-amino-4-(3-boronopropyl)-1-((6-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)pyrrolidine-3-carboxylic acid trihydrochloride | Cl.Cl.Cl.N[C@]1(CN(C[C@@H]1CCCB(O)O)CC1NCC2=CC=C(C=C2C1)Cl)C(=O)O
reactant | 3-chlorophenylalanine | ClC=1C=C(C[C@H](N)C(=O)O)C=CC1 | C9H10ClNO2
product | (3R,4S)-3-amino-4-(3-boronopropyl)-1-((6-chloro-1,2,3,4-tetrahydroisoquinolin-3-yl)methyl)pyrrolidine-3-carboxylic acid | N[C@]1(CN(C[C@@H]1CCCB(O)O)CC1NCC2=CC=C(C=C2C1)Cl)C(=O)O | C18H27BClN3O4
